### PR TITLE
[Merged by Bors] - feat(RingTheory): define finite split algebras

### PR DESCRIPTION
**Pull request by chrisflav**
From Pi1.

---

- [x] depends on: #36044 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by erdOne — COMMENTED** [review]
Can you add `IsFiniteSplit R R`? Thanks.

Otherwise LGTM

File: Mathlib/RingTheory/TotallySplit.lean [hunk 1]
```diff
@@ -0,0 +1,74 @@
...
+
+Every totally split algebra is finite étale and conversely, every finite étale covering is étale
+locally totally split (TODO, @chrisflav).
+-/
+
+@[expose] public section
+
+open TensorProduct
+
+/-- `S` is a finite, totally split `R`-algebra `S` is isomorphic to `Fin n → R` for some `n`.
```
Comment (robin-carlier) [inline Mathlib/RingTheory/TotallySplit.lean]:
```suggestion
/-- `S` is a finite, totally split `R`-algebra if `S` is isomorphic to `Fin n → R` for some `n`.
```

**Review by robin-carlier — COMMENTED** [review]
Thanks!

File: Mathlib/RingTheory/TotallySplit.lean [hunk 2]
```diff
@@ -0,0 +1,74 @@
...
+
+lemma of_subsingleton [Subsingleton R] : IsFiniteSplit R S := by
+  have : Subsingleton S := RingHom.codomain_trivial (algebraMap R S)
+  exact ⟨0, ⟨default⟩⟩
+
+instance [IsFiniteSplit R S] : Module.Free R S := by
+  obtain ⟨n, ⟨e⟩⟩ := nonempty_algEquiv_fun R S
+  exact Module.Free.of_equiv e.symm.toLinearEquiv
+
+instance [IsFiniteSplit R S] : Module.FinitePresentation R S := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/TotallySplit.lean]: Isn't this already found by the fact that it is finite and free?

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/RingTheory/TotallySplit.lean [hunk 3]
```diff
@@ -0,0 +1,74 @@
...
+  obtain ⟨n, ⟨e⟩⟩ := nonempty_algEquiv_fun R S
+  apply Module.FinitePresentation.of_equiv e.symm.toLinearEquiv
```
Comment (chrisflav) [inline Mathlib/RingTheory/TotallySplit.lean]:
```suggestion
instance [IsFiniteSplit R S] : Module.FinitePresentation R S :=
  Module.finitePresentation_of_projective _ _
```

File: Mathlib/RingTheory/TotallySplit.lean (hunk 2 above)
Comment (chrisflav) [reply Mathlib/RingTheory/TotallySplit.lean]: [Module.finitePresentation_of_projective](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/FinitePresentation.html#Module.finitePresentation_of_projective) is not an instance, but I changed the proof to use that. Thanks!

File: Mathlib/RingTheory/TotallySplit.lean [hunk 4]
```diff
@@ -0,0 +1,73 @@
...
+lemma of_subsingleton [Subsingleton R] : IsFiniteSplit R S := by
+  have : Subsingleton S := RingHom.codomain_trivial (algebraMap R S)
+  exact ⟨0, ⟨default⟩⟩
+
+instance [IsFiniteSplit R S] : Module.Free R S := by
+  obtain ⟨n, ⟨e⟩⟩ := nonempty_algEquiv_fun R S
+  exact Module.Free.of_equiv e.symm.toLinearEquiv
+
+instance [IsFiniteSplit R S] : Module.FinitePresentation R S :=
+  Module.finitePresentation_of_projective _ _
```
Comment (chrisflav) [inline Mathlib/RingTheory/TotallySplit.lean]:
```suggestion
instance [IsFiniteSplit R S] : Module.FinitePresentation R S := by
  obtain ⟨n, ⟨e⟩⟩ := nonempty_algEquiv_fun R S
  apply Module.FinitePresentation.of_equiv e.symm.toLinearEquiv
```

File: Mathlib/RingTheory/TotallySplit.lean (hunk 2 above)
Comment (chrisflav) [reply Mathlib/RingTheory/TotallySplit.lean]: In fact, I did not look closely enough and there is no instance for `Module.Finite` above, so I think we can't change the proof here.
